US05344843
As in Example 19, a stirred solution of rac-4-[4-hydroxy-4-(2-naphthalenyl)butoxy]-alpha-oxobenzeneacetic acid methyl ester (0.172 g) in warm methanol (2.5 mL) was treated with 1N sodium hydroxide (1 mL) and then water (25 mL) was added. After the methanol was removed in vacuo, the mixture was acidified with 1N hydrochloric acid (1.2 mL) and extracted with dichloromethane (1×50 mL, 1×10 mL). The dried (MgSO4) extracts were concentrated and the residual gummy solid (~0.17 g) was crystallized from acetone-hexane to give 0.06 g of rac-4-[4-hydroxy-4-(2-naphthalenyl) butoxy]-alpha-oxobenzeneacetic acid as a colorless solid, mp 108°-110° C.

reactant | rac-4-[4-hydroxy-4-(2-naphthalenyl)butoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.172 g | COC(C(C1=CC=C(C=C1)OCCCC(C1=CC2=CC=CC=C2C=C1)O)=O)=O | C23H22O5
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
reactant | water | 25 mL | O | H2O
solvent | methanol | 2.5 mL | CO | CH4O
product | rac-4-[4-hydroxy-4-(2-naphthalenyl) butoxy]-alpha-oxobenzeneacetic acid | 0.06 g | OC(CCCOC1=CC=C(C=C1)C(C(=O)O)=O)C1=CC2=CC=CC=C2C=C1 | C22H20O5
